US04652556
Preparation of 2-Carboethoxyethylsulfonyl chloride
To a stirred mixture of 90.5 g (0.44 moles) sodium 2-carboethoxyethyl sulfonate (the product of Example 26) in 300 ml chloroform, 92 g (0.44 moles) phosphorus pentachloride was added in small portions, maintaining the temperature of the reaction mixture below 40° C. during the addition. The reaction mixture was refluxed for about 6 hours, and then filtered. Nitrogen was bubbled through the solution to remove excess hydrogen chloride gas. Stripping of the solvent gave 28.4 g of the above-identified product.

reactant | sodium 2-carboethoxyethyl sulfonate | 0.44 moles, 90.5 g | C(=O)(OCC)CCS(=O)(=O)[O-].[Na+]
reactant | phosphorus pentachloride | 0.44 moles, 92 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Carboethoxyethylsulfonyl chloride | 28.4 g | C(=O)(OCC)CCS(=O)(=O)Cl | C5H9ClO4S
